US08685992B2
Preparation of methyl 6-[({[3-(4-fluorophenyl)-5-(2-thienyl)-1H-pyrrol-2-yl]carbonyl}amino)methyl]nicotinate
This material was prepared using a method substantially similar to that of Example 5 from 3-(4-fluorophenyl)-5-(2-thienyl)-1H-pyrrole-2-carboxylic acid and methyl 6-(aminomethyl)nicotinate hydrochloride, yielding the title compound. Methyl 6-[({[3-(4-fluorophenyl)-5-(2-thienyl)-1H-pyrrol-2-yl]carbonyl}amino)methyl]nicotinate: Yield 91%; m.p. 174-176° C.; IR 3378, 3245, 1723, 1618, 1505, 1433, 1218, 1113, 843 cm−1; 1H-NMR (500 MHz, δ ppm, CDCl3) 9.45 (sb, 1H), 8.95 (s, 1H), 8.21 (dd, J=8.1 Hz, J′=2.1 Hz, 1H), 7.48 (dd, J=8.6 Hz, J′=5.4 Hz, 2H), 7.31-7.23 (m, 2H), 7.21 (d, J=3.6 Hz, 1H), 7.15 (t, J=8.6 Hz, 2H), 7.06 (dd, J=5.0 Hz, J′=3.7 Hz, 1H), 6.88 (tb, J=4.6 Hz, 1H), 6.40 (d, J=3.0 Hz, 1H), 4.65 (d, J=5.0 Hz, 2H), 3.96 (s, 3H); 13C-NMR (126 MHz, δ ppm, DMSO-d6) 165.9, 162.9, 161.0, 157.9, 150.0, 142.4, 138.7, 138.3, 136.7, 130.8, 128.6, 128.0, 127.6, 127.2, 122.6, 122.4, 119.3, 116.2, 116.0, 109.1, 51.5, 48.7.

reactant | 3-(4-fluorophenyl)-5-(2-thienyl)-1H-pyrrole-2-carboxylic acid | FC1=CC=C(C=C1)C1=C(NC(=C1)C=1SC=CC1)C(=O)O | C15H10FNO2S
reactant | methyl 6-(aminomethyl)nicotinate hydrochloride | Cl.NCC1=NC=C(C(=O)OC)C=C1
product | methyl 6-[({[3-(4-fluorophenyl)-5-(2-thienyl)-1H-pyrrol-2-yl]carbonyl}amino)methyl]nicotinate | Yield 91% | FC1=CC=C(C=C1)C1=C(NC(=C1)C=1SC=CC1)C(=O)NCC1=NC=C(C(=O)OC)C=C1 | C23H18FN3O3S
